*BZX85C15 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*15V 1300mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX85C15 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  14.47
.MODEL DF D (IS=6.53N RS=32.3M N=1.7 CJO=97.3P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=5.67U RS=1.81 N=2.4)
.ENDS